US08008298B2
A solution of (1-methyl-cyclopropyl)-[5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone (20 mg, 0.4 mmol) in anhydrous tetrahydrofuran (2 ml) was treated with tetrabutyl ammonium fluoride (1M in tetrahydrofuran, 0.1 ml, 0.1 mmol) dropwise. The reaction mixture was allowed to stir at room temperature for 10 minutes, and then partitioned between EtOAc/water. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a yellow solid. The residue was purified by preparative thin layer chromatography using 70% EtOAc in hexanes as eluant to provide 10 mg (71%) of (1-methyl-cyclopropyl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone as a white solid. M+H=368.

reactant | (1-methyl-cyclopropyl)-[5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | 0.4 mmol, 20 mg | CC1(CC1)C(=O)C1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C29H41N3O4Si
reactant | tetrabutyl ammonium fluoride | 0.1 mmol, 1M, 0.1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (1-methyl-cyclopropyl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | 10 mg, 71% | CC1(CC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C20H21N3O4
